US05679683
4-Chlorobenzo[g]quinazoline (107 mg, 0.5 mmol), [R]-1-phenylethylamine (72 mg, 0.6 mmol) and NEt3 (202 mg, 2.0 mmol) in stirred methoxyethanol (2 mL) are heated under N 2 at 100° C. for 90 min. On cooling the reaction mixture is diluted with CHCl3 (10 mL), and is shaken with dilute hydrochloric acid (0.2M, 15 mL). The heavy yellow precipitate is collected by Buchner filtration, rinsed with water (5 mL), and dried in vacuo at 60° C. to give 4-([R]-1-phenylethylamino)benzo[g]quinazoline hydrochloride hydrate (122 mg, 64%) as a yellow solid. 1H NMR (DMSO) δ14.75 (1H brs), 10.85 (1H, d, J=8.0 Hz), 9.61 (1H, s), 8.90 (1H, s), 8.36 (1H, s), 8.18 (1H, d, J=8.2 Hz), 7.82 (1H, t, J=7.6 Hz), 7.74 (1H, t, J=7.4 Hz), 7.56 (2H, d, J=7.5 KHz), 7.39 (2H, t, J=7.6 Hz), 7.30 (1H, t, J=7.4 Hz), 5.92 (1H, pentet, J=7.2 Hz), 1.76 (3H, d, J=7.2 Hz).

reactant | 4-Chlorobenzo[g]quinazoline | 0.5 mmol, 107 mg | ClC1=NC=NC2=CC3=C(C=C12)C=CC=C3 | C12H7ClN2
reactant | [R]-1-phenylethylamine | 0.6 mmol, 72 mg | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | NEt3 | 2.0 mmol, 202 mg | CCN(CC)CC | C6H15N
reactant | hydrochloric acid | 0.2M, 15 mL | Cl | ClH
reactant | methoxyethanol | 2 mL | COC(C)O | C3H8O2
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-([R]-1-phenylethylamino)benzo[g]quinazoline hydrochloride hydrate | 122 mg, 64% | O.Cl.C1(=CC=CC=C1)[C@@H](C)NC1=NC=NC2=CC3=C(C=C12)C=CC=C3 | InChI=1S/C20H17N3.ClH.H2O/c1-14(15-7-3-2-4-8-15)23-20-18-11-16-9-5-6-10-17(16)12-19(18)21-13-22-20;;/h2-14H,1H3,(H,21,22,23);1H;1H2/t14-;;/m1../s1
